US08580798B2
4-{3-fluoro-4-[3-(6-trifluoromethylpyrimidin-4-yl)ureido]phenoxy}pyridine-2-carboxylic acid methylamide
In a 8-mL screw-cap vial, 4-amino-6-trifluoromethylpyrimidine (170 mg, 1.04 mmol) was added to a slurry of 1,1′-carbonyldiimidazole (169 mg, 1.04 mmol) in dichloroethane (0.35 mL). The mixture was heated at 60° C. for 30 hours. 4-(4Amino-3-fluoro-phenoxy)-pyridine-2-carboxylic acid methylamide (170 mg, 1.04 mmol) was then added and the mixture was heated overnight at to 60° C. The solvent was evaporated under reduced pressure, and the solid residue was washed with methanol to give the title product as a white solid (139 mg, yield 30%). 1H NMR (400 MHz, DMSO-d6) δ 10.6 (s, 1 H), 9.7 (s, 1 H), 9.0 (s, 1 H), 8.8 (s, 1 H), 8.5 (d, 1 H), 8.20 (m, 2 H), 7.40 (m, 2 H), 7.18 (d, 1 H), 7.10 (d, 1 H), 2.80 (s, 3 H). LC-MS m/z 451.3 [M+H]+.

reactant | 4-amino-6-trifluoromethylpyrimidine | 1.04 mmol, 170 mg | NC1=NC=NC(=C1)C(F)(F)F | C5H4F3N3
reactant | 1,1′-carbonyldiimidazole | 1.04 mmol, 169 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-(4Amino-3-fluoro-phenoxy)-pyridine-2-carboxylic acid methylamide | 1.04 mmol, 170 mg | CNC(=O)C1=NC=CC(=C1)OC1=CC(=C(C=C1)N)F | C13H12FN3O2
solvent | dichloroethane | 0.35 mL | ClC(C)Cl | C2H4Cl2
product | 4-{3-fluoro-4-[3-(6-trifluoromethylpyrimidin-4-yl)ureido]phenoxy}pyridine-2-carboxylic acid methylamide | 139 mg, yield 30% | CNC(=O)C1=NC=CC(=C1)OC1=CC(=C(C=C1)NC(=O)NC1=NC=NC(=C1)C(F)(F)F)F | C19H14F4N6O3
